US08304552B2
(S)-methyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoate (2.0 g, 4.8 mmol) was taken up in THF (8 mL) along with 5M aqueous NaOH (5 mL) and stirred vigorously at room temperature for 3 h. The reaction mixture was diluted with water and concentrated under reduced pressure. Enough 6N HCl was then added to adjust the pH to 2. The resulting mixture was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure to afford (S)-2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoic acid. This was taken up in CH3CN (15 mL) along with N-Boc-L-threonine methyl ester (1.11 g, 4.78 mmol), HATU (2.0 g, 5.3 mmol) and DIEA (1.2 mL). The resulting reaction mixture was stirred at room temperature for 6 h and diluted with EtOAc. The organic layer was washed with NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by silica gel chromatography (CH2Cl2) afforded (2S,3R)-methyl 2-(tert-butoxycarbonyl)-3-(S)-2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoyloxy)butanoate (1.0 g).

reactant | (S)-methyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoate | 4.8 mmol, 2.0 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)OC)C | C26H39NO3
reactant | NaOH | 5M, 5 mL | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaenamido)propanoic acid | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)N[C@H](C(=O)O)C | C25H37NO3
